US09359367B2
Synthesis of 8-benzyl-3,8-diazabicyclo[3.2.1]octane
To a stirred suspension of lithium aluminium hydride in tetrahudrofuran (30 ml) at 0° C. was added a solution of (1S,5R)-8-benzyl-3,8-diazabicyclo[3.2.1]octan-2-one (prepared according to the procedure reported in US200565178 A1, 1.0 g, 4.62 mmol) in 15 ml tetrahudrofuran (15 ml) under nitrogen atmosphere. The reaction mixture was allowed to stir at 25° C. for 2 h and at 65-70° C. for 1 h. The reaction mixture was cooled to 0° C. and slowly quenched with 15% aqueous Sodium hydroxide (5 ml). The reaction mixture was diluted with ethyl acetate (50 ml) and filtered through a celite bed. The filtrate was dried over sodium sulphate and concentrated under reduced pressure to obtain the title compound (0.85 g, 91%).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (1S,5R)-8-benzyl-3,8-diazabicyclo[3.2.1]octan-2-one | C(C1=CC=CC=C1)N1[C@@H]2C(NC[C@H]1CC2)=O | C13H16N2O
product | 8-benzyl-3,8-diazabicyclo[3.2.1]octane | 0.85 g, 91% | C(C1=CC=CC=C1)N1C2CNCC1CC2 | C13H18N2
